US07153873B2
1-acetyl-8-benzyloxy-3-tert-butylamino-2-methyl-imidazo[1,2-a]pyridin-1-ium chloride
Example 8 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-3-benzyloxypyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) tert.-butylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) acetaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-3-benzyloxypyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | tert.-butylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | acetaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C)=O | C2H4O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-8-benzyloxy-3-tert-butylamino-2-methyl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C(=CC=C2)OCC2=CC=CC=C2)NC(C)(C)C)C | InChI=1S/C21H26N3O2.ClH/c1-15-19(22-21(3,4)5)23-13-9-12-18(20(23)24(15)16(2)25)26-14-17-10-7-6-8-11-17;/h6-13,22H,14H2,1-5H3;1H/q+1;/p-1
